US08802697B2
Synthesis of (6-chloro-5-methyl-4-(methylamino)pyridin-3-yl)methanol
To a solution of ethyl 6-chloro-5-methyl-4-(methylamino)nicotinate (2.0 g, 8.8 mmol) in tetrahydrofuran (60 mL) was added lithium aluminium hydride at 0° C., and the mixture was stirred at RT for 1.5 h. LCMS monitored the reaction was completed. The reaction was quenched by sodium sulfate decahydrate (1.5 g) and filtrated. The filtrate was concentrated to get the title compound (1.4 g, crude) as a white solid. MS (ES+) C8H11ClN2O requires: 186, 188. found: 187, 189 [M+H]+.

reactant | ethyl 6-chloro-5-methyl-4-(methylamino)nicotinate | 8.8 mmol, 2.0 g | ClC1=NC=C(C(=O)OCC)C(=C1C)NC | C10H13ClN2O2
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | (6-chloro-5-methyl-4-(methylamino)pyridin-3-yl)methanol | 1.4 g | ClC1=C(C(=C(C=N1)CO)NC)C | C8H11ClN2O
